US07514567B2
3′-(5-Bromothiazol-2-yl)spiro[1-azabicyclo[2.2.2]octan-3,5′-oxazolidin]-2′-one
A solution containing 3′-(thiazol-2-yl)spiro[1-azabicyclo[2.2.2]octan-3,5′-oxazolidin]-2′-one (2.80 g, 10.55 mmol) and N-bromosuccinimide (3.90 g, 21.86 mmole) in N,N-dimethylformamide (15 mL) were stirred at RT overnight. The mixture was diluted with chloroform, washed with saturated aqueous potassium carbonate and then with brine, dried through magnesium sulfate, and then the solvent was evaporated. The residue was purified by flash chromatography using a gradient of ammoniated methanol in chloroform to give the title compound as a pale solid (1.70 g), m/z 343, 345 (MH+).

reactant | 3′-(thiazol-2-yl)spiro[1-azabicyclo[2.2.2]octan-3,5′-oxazolidin]-2′-one | 10.55 mmol, 2.80 g | S1C(=NC=C1)N1C(OC2(C1)CN1CCC2CC1)=O | C12H15N3O2S
reactant | N-bromosuccinimide | 21.86 mmole, 3.90 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | N,N-dimethylformamide | 15 mL | CN(C=O)C | C3H7NO
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 3′-(5-Bromothiazol-2-yl)spiro[1-azabicyclo[2.2.2]octan-3,5′-oxazolidin]-2′-one | 1.70 g | BrC1=CN=C(S1)N1C(OC2(C1)CN1CCC2CC1)=O | C12H14BrN3O2S
